US07820704B2
3-{[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionic acid was prepared following general procedure I using 3-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionitrile (368 mg, 1 mmol), 1 N NaOH (aq) solution (4 mL) and ethanol (2 mL). The mixture was refluxed for 15 h. Trituration in hexanes gave 3-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionic acid. LCMS m/z: 387 (M+1)+. The sodium salt was prepared following general procedure J using 3-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionic acid (93.8 mg, 0.243 mmol), 1 N NaOH (aq) solution (0.243 mL), THF (1 mL) and MeOH (1 mL). Trituration in hexanes gave sodium 3-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionate.

reactant | 3-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionitrile | 1 mmol, 368 mg | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N(CCC#N)CC=1SC=CC1 | C20H21N3S2
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | 3-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionic acid | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N(CCC(=O)O)CC=1SC=CC1 | C20H22N2O2S2
